US05246948
Synthesis of 4-[3-(butyrylamino)propylthio]pyridine
To a solution of 700 mg (2.90 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 1.62 ml (11.6 mmol) of triethylamine in 30 ml of methylene chloride was added 0.36 ml (3.48 mmol) of butyryl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ethyl acetate=1:1) to obtain 630 mg of the desired compound (91.1%, pale yellow oil).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 2.90 mmol, 700 mg | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 11.6 mmol, 1.62 ml | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 3.48 mmol, 0.36 ml | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(butyrylamino)propylthio]pyridine | 630 mg, 91.1% | C(CCC)(=O)NCCCSC1=CC=NC=C1 | C12H18N2OS
